US04788206
As described in Example 99, (E,E)-5-(4-methoxyphenyl)-2,4-octadienoic acid methyl ester (6.7 g) was saponified in a refluxing mixture of methanol (30 mL) and 2N NaOH (30 mL). After 3 hours reaction was worked up in the usual way and the crude acid crystallized from 2-propanol-hexane to provide 4.85 g of (E,E)-5-(4-methoxyphenyl)-2,4-octadienoic acid, mp 151°-152.5° C.

reactant | (E,E)-5-(4-methoxyphenyl)-2,4-octadienoic acid methyl ester | 6.7 g | COC(\C=C\C=C(/CCC)\C1=CC=C(C=C1)OC)=O | C16H20O3
reactant | NaOH | 2N, 30 mL | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | (E,E)-5-(4-methoxyphenyl)-2,4-octadienoic acid | 4.85 g | COC1=CC=C(C=C1)/C(=C/C=C/C(=O)O)/CCC | C15H18O3
